US06518273B1
(6S)-1-Methyl-6-(phenylmethyl)-2,5-piperazinedione
A solution of (S)-N-[2-(methylamino)-1-oxo-3-phenylpropyl)glycine methyl ester (Description 33, 1.59 g, 6.4 mmol) in toluene (15 mL) was heated at 170° C. in a sealed tube for 42 h. The mixture was cooled, the solvent was evaporated under reduced pressure and the residue was purified by flash column chromatography on silica gel, eluting with CH2Cl2/MeOH/NH3(aq.) (95:5:1), to give the title compound as a colorless solid (1.19 g, 86%). 1H NMR (360 MHz, CDCl3) δ7.31 (3H, m), 7.14 (2H, m), 5.93 (1H, br s), 4.16 (1H, m), 3.44 (1H, dd, J 17.0, 3.6 Hz), 3.27 (1H, dd, J 13.9, 3.7 Hz), 3.16 (1H, dd, J 13.9, 4.6 Hz), 3.06 (3H, s), and 2.48 (1H, d, J 17.0 Hz). mI/z (ES+) 218 (M+1).

reactant | (S)-N-[2-(methylamino)-1-oxo-3-phenylpropyl)glycine methyl ester | 6.4 mmol, 1.59 g | COC(CNC([C@H](CC1=CC=CC=C1)NC)=O)=O | C13H18N2O3
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | (6S)-1-Methyl-6-(phenylmethyl)-2,5-piperazinedione | 1.19 g, 86% | CN1C(CNC([C@@H]1CC1=CC=CC=C1)=O)=O | C12H14N2O2
